US06673799B1
trans-4-(2,5-Dimethylpiperazin-1-yl)phthalonitrile
A 1.52 g portion of 4-hydroxyphthalonitrile was dissolved in 30.0 ml of acetonitrile, mixed with 2.1 ml of triethylamine and stirred at −10° C. The reaction solution was mixed with 1.8 ml of anhydrous trifluoromethanesulfonic acid, stirred at 0° C. for 30 minutes and then warmed up to room temperature, mixed with 15 ml of DMF and stirred for 2 hours. After evaporation of the solvent under reduced pressure, the residue was mixed with ethyl acetate and washed with saturated aqueous sodium bicarbonate and then the organic layer was dried over sodium sulfate. After evaporation of the solvent under reduced pressure, the residue was dissolved in 20 ml of acetonitrile and mixed with 2.30 g of 2,5-transmethylpiperazine, and the mixture was heated under reflux for 2 hours and then stirred overnight at room temperature. After evaporation of the solvent under reduced pressure, the residue was mixed with 100 ml of ethyl acetate, washed with saturated aqueous sodium bicarbonate and saturated brine and then dried over sodium sulfate. The title compound was obtained by evaporating the solvent under reduced pressure.

reactant | 4-hydroxyphthalonitrile | OC=1C=C(C(C#N)=CC1)C#N | C8H4N2O
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid | 1.8 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 30.0 ml | C(C)#N | C2H3N
product | trans-4-(2,5-Dimethylpiperazin-1-yl)phthalonitrile | C[C@@H]1N(C[C@H](NC1)C)C=1C=C(C(C#N)=CC1)C#N | C14H16N4
